US04558143
To 5 ml of water were added 1.12 g (10 mmoles) of 1,3-cyclohexanedione and the each base shown in Table 1, and then 2 ml of 40% aqueous solution of chloroacetaldehyde was added thereto. The resulting mixture was stirred at a room temperature for 2 hours. To the reaction mixture was added about 10 ml of ethyl acetate, and then the reaction mixture was acidified with 0.5 to 1 ml of sulfuric acid and stirred for 30 minutes. The resulting ethyl acetate layer was analyzed by gas-liquid chromatography (hereinafter referred to as "GLC") (SE30 10%, 1.2 m×3 mmφ glass column, 130° C.) using p-dimethoxybenzene as an internal standard. The obtained each result is shown in Table 1. It was proved from the results of the GLC that 4-oxo-4,5,6,7-tetrahydrobenzofuran was produced in a yield shown in Table 1, in each Example. Comparative Example 1 was carried out in the absence of a base.

reactant | 1,3-cyclohexanedione | 10 mmoles, 1.12 g | C1(CC(CCC1)=O)=O | C6H8O2
reactant | chloroacetaldehyde | ClCC=O | C2H3ClO
reactant | sulfuric acid | 0.5 to 1 ml | S(O)(O)(=O)=O | H2O4S
reactant | p-dimethoxybenzene | COC1=CC=C(C=C1)OC | C8H10O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | about 10 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 5 ml | O | H2O
product | 4-oxo-4,5,6,7-tetrahydrobenzofuran | O=C1CCCC2=C1C=CO2 | C8H8O2
